US03992441
2,4-Dichloro-5-piperidinosulfonylbenzoic Acid
A stirred suspension of 1.7 g. (0.02 mole) of piperidine and 5.8 g. (0.02 mole) of 2,4-dichloro-5-chlorosulfonylbenzoic acid (Sturm, et al., Ber., 99, 328 (1966) in 70 ml. of water and cooled to 15° C. is treated dropwise with 50 ml. of 1N sodium hydroxide. When the addition is complete, the mixture is allowed to warm to room temperature and remain for 1 hr. The hazy suspension is filtered and the clear filtrate acidifiedwith 12N hydrochloric acid. The precipitated solids are filtered and dried,7.7 g., m.p. 200°-205° C. A sample is recrystallized from acetonitrile, m.p. 205°-206° C.

reactant | piperidine | 0.02 mole | N1CCCCC1 | C5H11N
reactant | 2,4-dichloro-5-chlorosulfonylbenzoic acid | 0.02 mole | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)Cl | C7H3Cl3O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 2,4-Dichloro-5-piperidinosulfonylbenzoic Acid | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)N1CCCCC1 | C12H13Cl2NO4S
